US07276286B2
Bromoacetic acid tert-butyl ester (20 mL, 0.14 mol), was added over a 10 min period to a rapidly stirred mixture of triethylene glycol monomethyl ether (20 mL, 0.13 mol), tetrabutyl ammonium bromide (20 g, 0.062 mol), toluene (100 mL) and KOH (50% w/w, 100 mL), and the resulting heterogeneous reaction mixture was stirred at 0° C. for 10 min. The reaction mixture was warmed to ambient temperature and stirred for 1 h. Water (100 mL) was added and the organic layer was separated. The organic layer was washed with saturated aq. NH4Cl (2×100 mL), saturated aq. NaHCO3 (100 mL), brine (100 mL), and dried over anhydrous MgSO4. The solution was concentrated in vacuo and the residue was loaded onto a silica gel gravity column (200 g) and eluted with ethyl acetate to afford CH3(OCH2CH2)3CH2OCH2CO2C(CH3)3 as a colorless oil (420 g, 12%).

reactant | Bromoacetic acid tert-butyl ester | 0.14 mol, 20 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | triethylene glycol monomethyl ether | 0.13 mol, 20 mL | COCCOCCOCCO | C7H16O4
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | KOH | 100 mL | [OH-].[K+]
catalyst | tetrabutyl ammonium bromide | 0.062 mol, 20 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 100 mL | O | H2O
product | CH3(OCH2CH2)3CH2OCH2CO2C(CH3)3 | 420 g, 12% | COCCOCCOCCCOCC(=O)OC(C)(C)C | C14H28O6
